US08242153B2
In analogy to example 1d (S)-2-amino-6,6,6-trifluoro-5-phenyl-hexan-1-ol was reacted with cyanogen bromide to give (4S)-4-(4,4,4-trifluoro-3-phenyl-butyl)-4,5-dihydro-oxazol-2-ylamine. White solid. MS (ISP): 273.1 ([M+H]+))

reactant | (S)-2-amino-6,6,6-trifluoro-5-phenyl-hexan-1-ol | N[C@H](CO)CCC(C(F)(F)F)C1=CC=CC=C1 | C12H16F3NO
reactant | cyanogen bromide | N#CBr | CBrN
product | (4S)-4-(4,4,4-trifluoro-3-phenyl-butyl)-4,5-dihydro-oxazol-2-ylamine | FC(C(CC[C@@H]1N=C(OC1)N)C1=CC=CC=C1)(F)F | C13H15F3N2O
